US07141583B2
(5R)-3-(4-(1-(2-Hydroxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3-fluoro-phenyl)-5-(tetrazol-2-ylmethyl)oxazolidin-2-one
(5R)-3-(4-(1-(2-Acetoxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(tetrazol-2-ylmethyl)oxazolidin-2-one (365 mg, 0.82 mM) was treated with a saturated solution of ammonia in methanol (40 ml), warmed slightly to dissolve completely, then stirred at room temperature for 20 hours. The solvent was evaporated to give an orange oil which was triturated with diethyl ether to give the title compound as a pale yellow solid (211 mg).

reactant | (5R)-3-(4-(1-(2-Acetoxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(tetrazol-2-ylmethyl)oxazolidin-2-one | 0.82 mM, 365 mg | C(C)(=O)OCC(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=CN=N1)=O)F | C20H21FN6O5
reactant | ammonia | N | H3N
solvent | methanol | 40 ml | CO | CH4O
product | (5R)-3-(4-(1-(2-Hydroxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3-fluoro-phenyl)-5-(tetrazol-2-ylmethyl)oxazolidin-2-one | 211 mg | OCC(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=CN=N1)=O)F | C18H19FN6O4
